US04727080
Preparation of ethyl 6-fluoro-7-(pyrrol-1-yl)-1-(2-chloroethyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate
3.5 g (0.01 mol) of ethyl 6-fluoro-7-(pyrrol-1-yl)-1-(2-hydroxyethyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate are suspended in 30 ml chloroform, 3 ml of Cl3PO are added, the mixture is kept at room temperature for 2 hours and evaporated to dryness, the residue is redissolved in chloroform, the resulting solution is washed with a sodium bicarbonate solution and then with water and evaporated, and the precipitate is recrystallized from dimethylformamide to give 3.3 g of a solid melting at 254°-256° C.

reactant | ethyl 6-fluoro-7-(pyrrol-1-yl)-1-(2-hydroxyethyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate | 0.01 mol, 3.5 g | FC=1C=C2C(C(=CN(C2=CC1N1C=CC=C1)CCO)C(=O)OCC)=O | C18H17FN2O4
reactant | Cl3PO | 3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 6-fluoro-7-(pyrrol-1-yl)-1-(2-chloroethyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate | 3.3 g | FC=1C=C2C(C(=CN(C2=CC1N1C=CC=C1)CCCl)C(=O)OCC)=O | C18H16ClFN2O3
